.SUBCKT LV1UPMOS 1 2 3
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L=1E-6 W=1E-6 
RD 10 1 0.01593 
RS 30 3 0.001 
RG 20 2 1.4 
CGS 2 3 2.711E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 5.2E-010 
R1 13 0 1 
* D1 12 13  DLIM 
* DDG 15 14  DCGD 
R2 12 15 1 
* D2 15 0 DLIM 
* DSD 3 10  DSUB 
.MODEL PMOS PMOS LEVEL=3  VMAX=5.378E+005 ETA=0.001 VTO=-0.8 TOX=40E-9 NSUB=1E+16 KP=9.816 U0=400 KAPPA = 10 
* .MODEL DCGD D CJO = 2.317E-010  VJ = 0.2783  M = 0.4405 
* .MODEL DSUB D IS = 1E-015  N = 0.8731  RS = 0.04482  BV = 35  CJO = 1.086E-011  VJ = 0.4101  M = 0.9 
* .MODEL DLIM D IS = 0.0001 
.ENDS LV1UPMOS